US06660735B2
A solution of tert-butyl 2-{2-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate (15.47 g, 37.3 mmol) in 150 mL of CHCl3 was treated with 3-chloroperoxybenzoic acid (MCPBA, 70%, 15.12 g, 61.3 mmol). After stirring for 1.5 h, the reaction mixture was treated with water (100 mL) and CHCl3 (50 mL) and the layers were separated. The organic portion was washed with 2% Na2CO3 solution (2×), H2O and brine then dried over Na2SO4 and concentrated to give 16.06 g of tert-butyl 2-{2-[2-(ethoxymethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate as a yellow solid.

reactant | tert-butyl 2-{2-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate | 37.3 mmol, 15.47 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCNC(OC(C)(C)C)=O | C22H30N4O4
reactant | 3-chloroperoxybenzoic acid | 61.3 mmol, 15.12 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | water | 100 mL | O | H2O
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 2-{2-[2-(ethoxymethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate | 16.06 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCOCCNC(OC(C)(C)C)=O | C22H30N4O5
